* C:\AU_IC\Assignment AB amp\AudioAmp.asc
* Generated by LTspice 24.1.10 for Windows.
Q1 VCC N003 N004 0 BD139
Q2 N003 N005 N009 0 BC547B
Q3 N008 N012 N015 0 BC547B
Q4 N011 N014 N016 0 BC547B
Q5 N013 0 N017 0 BC547B
Q6 N018 N019 VSS 0 BC547B
Q7 N019 N019 VSS 0 BC547B
Q8 VSS N009 N010 0 BD140
Q9 N003 N002 N001 0 BC557B
R1 VCC N019 80k
R2 VCC N013 8.1k
R3 VCC N011 8.1k
R4 N004 N006 0.5
R5 N006 N010 0.5
R6 N003 N005 700
R7 N005 N009 700
R8 VCC N008 4.7k
R9 N015 VSS 1.5k
R10 VCC N012 5.1k
R11 N012 VSS 6k
R12 VCC N001 4.1
R13 N002 0 400
C1 N012 N011 470µ
C2 N009 N008 470µ
C3 N007 N006 470µ
R14 N007 0 16
V1 VCC 0 15
V2 VSS 0 -15
D1 N002 VCC BZX84C13VLY
R15 N016 N018 110
R16 N017 N018 110
V3 N014 0 SINE(0 20m 10k)
.model D D
.lib C:\Users\alext\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\alext\AppData\Local\LTspice\lib\cmp\standard.bjt
.lib BC557B.lib
.lib BC547B.lib
.lib BD139.lib
.lib BD140.lib
.tran 0.2
.backanno
.end
